US06225310B1
a) N-(4-Cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-propylthiourea
The title compound was prepared from 4-cyano-2-ethoxycarbonylamino-5-methyl-thiophene-3-sulfonamide and propyl isothiocyanate in analogy with the synthesis described in Example 1-d; m.p. 167-168° C.

reactant | 4-cyano-2-ethoxycarbonylamino-5-methyl-thiophene-3-sulfonamide | C(#N)C=1C(=C(SC1C)NC(=O)OCC)S(=O)(=O)N | C9H11N3O4S2
reactant | propyl isothiocyanate | C(CC)N=C=S | C4H7NS
product | N-(4-Cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-propylthiourea | C(#N)C=1C(=C(SC1C)NC(=O)OCC)S(=O)(=O)NC(=S)NCCC | C13H18N4O4S3
